US04654428
In 150 ml of toluene was dissolved 9.9 g of carbonyl chloride, and a solution of 22.1 g of γ-triethoxysilylpropylamine and 27.9 g of N,N-dimethylaniline in 50 ml of toluene was dropped into the above solution at -5° C. to -10° C. over a period of 3 hours to effect reaction. After the reaction, the crystal of N,N-dimethylaniline chloride was removed by filtration and the filtrate was subjected to distillation to recover toluene, whereby 19.8 g of γ-triethoxysilylpropyl isocyanate was obtained as a fraction having a boiling point of 88° C. to 91° C. under 4.5 mmHg.

reactant | carbonyl chloride | 9.9 g | C(=O)(Cl)Cl | CCl2O
reactant | γ-triethoxysilylpropylamine | 22.1 g | C(C)O[Si](CCCN)(OCC)OCC | C9H23NO3Si
reactant | N,N-dimethylaniline | 27.9 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | γ-triethoxysilylpropyl isocyanate | 19.8 g | C(C)O[Si](CCCN=C=O)(OCC)OCC | C10H21NO4Si
